US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.79 g, 4.34 mmol) in acetonitrile (9.5 mL) was treated with N,N-diisopropylethylamine (0.70 mL, 4.26 mmol). After addition was complete, the mixture was stirred at 60° C. for 1 h. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.70 mL, 4.26 mmol) and acetonitrile (9.5 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(3-trifluoromethyl-phenoxy)-but-2-enoic acid ethyl ester (1.40 g, 3.96 mmol) in acetonitrile (9.5 mL). After the addition was complete the reaction mixture was heated to 100° C. and stirred overnight. At this time, the reaction mixture was cooled to 25° C. and concentrated in vacuo. The residue was diluted with dichloromethane (100 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 15-50% ethyl acetate/hexanes) afforded (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (0.86 g, 59%) as a light, brown solid: HR-ES-MS m/z calculated for C18H20NO4F3 [M+H]+ 372.1417, observed 372.1418; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.88 (d, J=6.6 Hz, 3H), 0.93 (d, J=6.6 Hz, 3H), 1.29-1.55 (m, 1H), 1.56-1.68 (m, 1H), 1.73-1.90 (m, 1H), 3.66 (s, 3H), 4.19 (d, J=18.1 Hz, 1H), 4.26 (d, J=18.1 Hz, 1H), 4.75 (dd, J=11.4, 4.6 Hz, 1H), 4.95 (s, 1H), 7.64-7.78 (m, 4H).

reactant | (L)-leucine methyl ester hydrochloride | 4.34 mmol, 0.79 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 4.26 mmol, 0.70 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 4.26 mmol, 0.70 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(3-trifluoromethyl-phenoxy)-but-2-enoic acid ethyl ester | 3.96 mmol, 1.40 g | C(C)OC(C=C(CBr)OC1=CC(=CC=C1)C(F)(F)F)=O | C13H12BrF3O3
solvent | acetonitrile | 9.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 9.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 9.5 mL | C(C)#N | C2H3N
product | (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 0.86 g, 59% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)C(F)(F)F)=O)=O | C18H20F3NO4
